US04388317
A mixture of 2-(5-methyl-4-imidazolylmethylthio)ethylamine (1.37 g), 2-nitroamino-5-(6-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone (2.28 g) in pyridine were heated under reflux for 22 hr. The pyridine (12 ml) was evaporated at reduced pressure yielding [2-(5-methyl-4-imidazolyl-methylthio)ethylamino]-5-(6-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone as a brown oily residue washed with water by decantation. The residue was dissolved in dilute ethanolic hydrochloric acid and the excess of solvent evaporated at reduced pressure. The residue was recrystallised from methanol/dilute ethanolic hydrochloric acid and then twice from methanol/ethanol to yield the tetrahydrochloride (0.82 g) as a light buff solid m.p. 167°-170° C.

reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | 1.37 g | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | 2-nitroamino-5-(6-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone | 2.28 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)CN(C)C | C13H16N6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | [2-(5-methyl-4-imidazolyl-methylthio)ethylamino]-5-(6-dimethylaminomethyl-3-pyridylmethyl)-4-pyrimidone | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)CN(C)C | C20H27N7OS
